US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-pyridyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(2-pyridyl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide, the title compound was prepared. Conversion to the hydrochloride salt Gave a white solid; mp 200°-202° C.; MS: 496; NMR: 2.14 (b, 8), 2.7 (s, 3), 3.4-3.9 (m, 8), 6.9-7.7 (m, 12), 8.16 (m, 1), 8.68 (m, 1), 10.4 (br, 1). Analysis for C28H31Cl2N3O·2.0 HCl·0.5 H2O: Calculated: C, 58.14; H, 5.92; N, 7.26 Found: C, 58.00; H, 5.90; N, 7.56.

reactant | 4-(2-pyridyl)piperidine | N1=C(C=CC=C1)C1CCNCC1 | C10H14N2
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-pyridyl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=NC=CC=C1 | InChI=1S/C28H31Cl2N3O.ClH/c1-32(28(34)22-7-3-2-4-8-22)20-24(23-10-11-25(29)26(30)19-23)14-18-33-16-12-21(13-17-33)27-9-5-6-15-31-27;/h2-11,15,19,21,24H,12-14,16-18,20H2,1H3;1H/t24-;/m1./s1
